US04086245
PREPARATION OF NOGAMYCIN
A solution of 12.3 g of nogalamycinic acid in a mixture of 20 ml of DMF and 50 ml of CH3OH was prepared by heating. After the solution had stood at room temperature overnight, it was put on 500 g of silica and eluted with CHCl3 --MeOH starting with 99:1 and gradually increasing the concentration of CH3OH until a ratio of 4:1 was reached. The elution was followed by thin layer chromatography (tlc) (CHCl3 --MeOH--H2O); 78:20:2) and collecting those fractions containing only nogamycin (Rf 0.5). A total of 3.9 g was obtained. One and one-half grams was recrystallized from acetone-CH3OH (85:15). Obtained: 259 mg, mp 210°-215° C.; αD + 273° (C 0.923, CHCl3); uv (EtOH) λmax nm 236 (ε 51,700), 259 (ε 25,850), 290 (ε 10,050) and 478 (ε 16,100); ir (Nujol) 3500, 1670, 1630, 1575, 1295, 1230, 1110, 1055, 1005, 920, 890, 838, 778, 762 and 724 cm1 ; mass spectrum m/e 729; 'H NMR (d7 --DMF) 1.14, 1.23, 1.37, 1.69 (12 H, 4 CH3C), δ 2.07-2.38, 2.83-3.0 (m, 4 H, 2 CH2), 2.42 [s, 6 H, (CH3)2N], δ 3.13, 3.42, 3.52 (3 S, 9 H, 3 CH3O), 3.3-4.2 (m, CHO, CHN), 4.95 (m, 1 H, benzylic CHO), δ 5.32 (d, 1 H, anomeric), δ 5.68 (1 H, anomeric) δ 7.16, 7.32 (2s, 2 H, aromatic); 13C NMR (CDCl3) δ 15.2, 18.3, 24.2, 30.4 (4 CH3C), 30.8 (CH2), δ 41.5 [(CH3)2N], δ 44.1 (CH2) δ 48.7, 59.0, 61.4 (3 CH3O), δ 66.4-88.6 (CO and CN), δ 96.79 and 99.81 (anomeric), δ 113.1-161.4 (aromatic), δ 179.7 and 190.8 (carbonyl). Anal. calcd. for C37H47NO14 : C, 60.96; H, 6.55; N, 1.92. Found: C, 58.55; H, 6.42; N, 1.94.

reactant | nogalamycinic acid | 12.3 g | C[C@H]1[C@@H]([C@@]([C@H]([C@@H](O1)O[C@H]2C[C@]([C@@H](C3=C2C(=C4C(=C3)C(=O)C5=C(C(=CC6=C5O[C@H]7[C@H]([C@@H]([C@H]([C@@]6(O7)C)O)N(C)C)O)O)C4=O)O)C(=O)O)(C)O)OC)(C)OC)OC | C38H47NO16
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | EtOH | CCO | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | CH3OH | 50 ml | CO | CH4O
product | NOGAMYCIN | C[C@H]1[C@@H]([C@@]([C@H]([C@@H](O1)O[C@H]2C[C@](CC3=C2C(=C4C(=C3)C(=O)C5=C6C(=CC(=C5C4=O)O)[C@@]7([C@@H]([C@H]([C@@H]([C@H](O6)O7)O)N(C)C)O)C)O)(C)O)OC)(C)OC)OC | C37H47NO14
